US04552866
(D) N-[(3S)-3-[[(t-Butyloxy)carbonyl]amino]-2-hydroxy-5-methylhexyl]-L-leucine, 2-(trimethylsilyl)ethyl ester
To a solution of 5.0 g (10.9 mmol) of N-[(3S)-3-[[(t-butyloxy)carbonyl]amino]-2-oxo-5-methylhexyl]-L-leucine, 2-(trimethylsilyl)ethyl ester in a mixture of 150 ml of tetrahydrofuran and 50 ml of water cooled in an ice-water bath was added 2.1 g (54.5 mmol) of sodium borohydride. After 5 minutes, the reaction was poured into 300 ml of water and extracted with 600 ml of ethyl acetate. The organic extract was rinsed further with water and brine, dried (magnesium sulfate) and concentrated in vacuo to yield 4.7 g of crude product. Flash chromatography on 140 g of LPS-1 silica gel eluted with 10:1, petroleum ether:acetone yielded 3.5 g of the title compound as an oil. By 13C-NMR analysis, material prepared in this manner is essentially a 1:1 mixture of diastereomers.

reactant | N-[(3S)-3-[[(t-butyloxy)carbonyl]amino]-2-oxo-5-methylhexyl]-L-leucine, 2-(trimethylsilyl)ethyl ester | 10.9 mmol, 5.0 g | C(C)(C)(C)OC(=O)N[C@H](C(CN[C@@H](CC(C)C)C(=O)OCC[Si](C)(C)C)=O)CC(C)C | C23H46N2O5Si
reactant | sodium borohydride | 54.5 mmol, 2.1 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | N-[(3S)-3-[[(t-Butyloxy)carbonyl]amino]-2-hydroxy-5-methylhexyl]-L-leucine, 2-(trimethylsilyl)ethyl ester | 3.5 g | C(C)(C)(C)OC(=O)N[C@H](C(CN[C@@H](CC(C)C)C(=O)OCC[Si](C)(C)C)O)CC(C)C | C23H48N2O5Si
